US08877934B2
Step C: 2-Chloro-4-nitro-6-methyl-pyridine
2-Chloro-4-nitro-6-methyl-pyridine 1-oxide (6.2 g, 0.033 mol) was dissolved in chloroform (100 ml), phosphorus trichloride was added (22.6 g, 0.165 mol) and the mixture was heated under reflux for 2 days. The mixture was cooled to room temperature, poured into icewater and the mixture was neutralized with solid potassium carbonate. The phases were separated, the aqueous phase was extracted three times with chloroform, the combined organic phases were dried over magnesium sulfate. The solvent was removed under reduced pressure after which 5.326 g of a brown oil was obtained (0.031 mol, 94%) which was used directly in the next step.

reactant | 2-Chloro-4-nitro-6-methyl-pyridine 1-oxide | 0.033 mol, 6.2 g | ClC1=[N+](C(=CC(=C1)[N+](=O)[O-])C)[O-] | C6H5ClN2O3
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-4-nitro-6-methyl-pyridine | ClC1=NC(=CC(=C1)[N+](=O)[O-])C | C6H5ClN2O2
